US07772238B2
Di-tert-butyl [2-(ethoxycarbonyl)-1-benzothien-6-yl](methyl)malonate.
Sodium hydride (60% dispersion in mineral oil, 0.19 g, 4.75 mmol) was suspended in DMSO (2.5 mL) and ethyl mercaptoacetate (0.28 mL, 2.54 mmol) was added portionwise using a water bath to moderate the exotherm. On complete addition, the water bath was removed and stirring continued for 15 minutes. A solution of di-tert-butyl (3-fluoro-4-formylphenyl)(methyl)malonate (0.81 g, 2.30 mmol) in DMSO (0.5 mL) was added in one portion. The orange solution was warmed with a heat gun to give a dark brown solution. H2O was added (150 mL) and the products were extracted into EtOAc (2×100 mL). The combined organic extracts were washed with brine, dried over MgSO4 and concentrated in vacuo. Purification of the residue by MPLC gave 0.22 g of desired product (pale yellow solid, 22%). 1H NMR (CDCl3) δ 8.01 (s, 1H), 7.88 (d, J=1.8 Hz, 1H), 7.81 (d, J=8.4 Hz, 1H), 7.48 (dd, J=8.4, 1.8 Hz, 1H), 4.39 (q, J=7.2 Hz, 2H), 1.84 (s, 3H), 1.47 (s, 18H), 1.40 (t, J=7.2 Hz, 3H).

reactant | Sodium hydride | 4.75 mmol, 0.19 g | [H-].[Na+]
reactant | ethyl mercaptoacetate | 2.54 mmol, 0.28 mL | SCC(=O)OCC | C4H8O2S
reactant | di-tert-butyl (3-fluoro-4-formylphenyl)(methyl)malonate | 2.30 mmol, 0.81 g | FC=1C=C(C=CC1C=O)C(C(=O)OC(C)(C)C)(C(=O)OC(C)(C)C)C | C19H25FO5
reactant | H2O | O | H2O
solvent | DMSO | 2.5 mL | CS(=O)C | C2H6OS
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | Di-tert-butyl [2-(ethoxycarbonyl)-1-benzothien-6-yl](methyl)malonate | 0.22 g, 22% | C(C)OC(=O)C=1SC2=C(C1)C=CC(=C2)C(C(=O)OC(C)(C)C)(C(=O)OC(C)(C)C)C | C23H30O6S
